US07807673B2
N-{3-[3-(2-Chloro-4-pyrimidinyl)-6-methylpyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,2,2-trifluoroacetamide (1.70 g, 3.94 mmol) and LiOH (0.50 g, 11.8 mmol) were combined in THF (30 mL) and water (5 mL) and stirred at 40° C. for 3 h. The mixture was cooled, concentrated to remove the THF, and extracted with DCM. The organic phase was concentrated to afford {3-[3-(2-chloro-4-pyrimidinyl)-6-methylpyrazolo[1,5-a]pyridin-2-yl]phenyl}amine which was carried on crude to Step C. ES-LC/MS m/z=336 [M+H]+.

reactant | N-{3-[3-(2-Chloro-4-pyrimidinyl)-6-methylpyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,2,2-trifluoroacetamide | 3.94 mmol, 1.70 g | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC(=C2)C)C=2C=C(C=CC2)NC(C(F)(F)F)=O | C20H13ClF3N5O
reactant | LiOH | 11.8 mmol, 0.50 g | [Li+].[OH-]
reactant | water | 5 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | {3-[3-(2-chloro-4-pyrimidinyl)-6-methylpyrazolo[1,5-a]pyridin-2-yl]phenyl}amine | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC(=C2)C)C=2C=C(C=CC2)N | C18H14ClN5
